US07868012B2
To as suspension of 1-benzyloxypropanesulfamic acid[6-chloro-5-(4-bromophenyl)-pyrimidin-4-yl]-amide (524 mg, 1.02 mmol) in ethylene glycol (10 mL) is added potassium tert. butylate (1.15 g, 10.2 mmol). The resulting clear solution is stirred at 85-90° C. for 48 h before it is cooled to rt, diluted with 10% aq. citric acid solution (75 mL) and extracted with EA (2×75 mL). The organic extracts are washed with water (2×75 mL) and the solvent is removed in vacuo. The remaining residue is purified by column chromatography on silica gel eluting with heptane/EA 1:1 to give 1-benzyloxypropanesulfamic acid[6-(2-hydroxyethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide (517 mg) as a colourless foam. LC-MS: tR=0.97 min, [M+H]+=536.99; 1H NMR (CDCl3): δ 8.34 (s, 1H), 7.65-7.60 (m, 2H), 7.38-7.29 (m, 5H), 7.20-7.15 (m, 2H), 6.86 (s br, 1H), 5.98 (t br, J=5.9 Hz, 1H), 4.51-4.45 (m, 4H), 3.86-3.82 (m, 2H), 3.56 (t, J=5.9 Hz, 2H), 3.17 (q, J=6.4 Hz, 2H), 2.54 (s br, 1H), 1.93-1.84 (m, 2H).

reactant | 1-benzyloxypropanesulfamic acid[6-chloro-5-(4-bromophenyl)-pyrimidin-4-yl]-amide | 1.02 mmol, 524 mg | ClC1=C(C(=NC=N1)NS(NC(CC)OCC1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)Br | C20H20BrClN4O3S
reactant | ethylene glycol | 10 mL | C(CO)O | C2H6O2
solvent | citric acid | 75 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 1-benzyloxypropanesulfamic acid[6-(2-hydroxyethoxy)-5-(4-bromophenyl)-pyrimidin-4-yl]-amide | 517 mg | OCCOC1=C(C(=NC=N1)NS(NC(CC)OCC1=CC=CC=C1)(=O)=O)C1=CC=C(C=C1)Br | C22H25BrN4O5S
